US06211242B1
To a solution of N-(2-hydroxy-4-methylphenyl)-4-nitrobenzamide (3.8 g) in N,N-dimethylformamide (25 ml) was added potassium carbonate (3.85 g) and benzyl bromide (2.63 g). The reaction mixture was stirred at ambient temperature for 3 hours. The mixture was extracted with ethyl acetate and washed with water and brine. The organic solution was dried over magnesium sulfate. The solvent was removed by evaporation to give N-(2-benzyloxy-4-methylphenyl)-4-nitrobenzamide (4.8 g).

reactant | N-(2-hydroxy-4-methylphenyl)-4-nitrobenzamide | 3.8 g | OC1=C(C=CC(=C1)C)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C14H12N2O4
reactant | potassium carbonate | 3.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 2.63 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N-(2-benzyloxy-4-methylphenyl)-4-nitrobenzamide | 4.8 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C21H18N2O4
